US04452631
2,6-Dimethoxybenzoylisocyanate
A 167 g. portion of 2,6-dimethoxybenzamide was slurried in 2 l. of toluene under a nitrogen atmosphere. To this solution was added 145 g. of oxalyl chloride over a one hour period. The solution was heated to 60° C. and maintained at this temperature overnight. HCl was allowed to escape while attempting to prevent water from condensing and going into the reaction mixture. Nitrogen was bubbled subsurface through a gas inlet tube while heating the reaction mixture at reflux (about 110° C.) for 11/2 hours. As stirring continued, the mixture was allowed to come to about 30° C. The solution was filtered through infusorial earth while maintaining a nitrogen atmosphere and the solvent was removed in vacuo. Yield 185 g. (97%). The oil was then stored under nitrogen.

reactant | 2,6-dimethoxybenzamide | COC1=C(C(=O)N)C(=CC=C1)OC | C9H11NO3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 2,6-Dimethoxybenzoylisocyanate | COC1=C(C(=O)N=C=O)C(=CC=C1)OC | C10H9NO4
